US07776874B2
Step 1. methyl 3-[1-(phenoxyacetyl)-2,3-dihydro-1H-pyrrol-3-yl]benzoate
A solution of benzyl 2,5-dihydro-1H-pyrrole-1-carboxylate (0.626 mL, 0.00349 mol), methyl 3-bromo-benzoate (300 mg, 0.001 mol), palladium(II) diacetate (14 mg, 0.000063 mol), potassium acetate (356 mg, 0.00363 mol), and tetra-N-butylammonium bromide (4.50×10−2 mg, 0.00140 mol) in N,N-dimethylformamide (5 mL, 0.06 mol) was stirred under nitrogen at 40° C. for 4 days. The reaction mixture was diluted with AcOEt and water. The organic layer was separated and the aqueous layer was extracted with AcOEt. The combined organic layer was washed with brine, dried with MgSO4, and concentrated to afford the crude product. The crude product was purified by flash chromatography, eluting with 30% AcOEt in hexanes.

reactant | benzyl 2,5-dihydro-1H-pyrrole-1-carboxylate | 0.00349 mol, 0.626 mL | N1(CC=CC1)C(=O)OCC1=CC=CC=C1 | C12H13NO2
reactant | methyl 3-bromo-benzoate | 0.001 mol, 300 mg | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | potassium acetate | 0.00363 mol, 356 mg | C(C)(=O)[O-].[K+]
reactant | N,N-dimethylformamide | 0.06 mol, 5 mL | CN(C=O)C | C3H7NO
reactant | AcOEt | CCOC(=O)C | C4H8O2
catalyst | tetra-N-butylammonium bromide | 0.00140 mol, 4.50×10−2 mg | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | water | O | H2O
catalyst | palladium(II) diacetate | 0.000063 mol, 14 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | methyl 3-[1-(phenoxyacetyl)-2,3-dihydro-1H-pyrrol-3-yl]benzoate | O(C1=CC=CC=C1)CC(=O)N1CC(C=C1)C=1C=C(C(=O)OC)C=CC1 | C20H19NO4
